US07247646B2
Synthesis of 3-(4-chlorophenyl)-7-hydroxy-8-iodo-4-{(4-(2-piperidylethoxy)phenyl)methyl}2H-chromen-2-one
To a solution containing 3-(4-chlorophenyl)-7-hydroxy-4-{(4-(2-piperidylethoxy)phenyl)methyl}-2H-chromen-2-one (0.500 g.) in methanol (10 mL) was added ammonium hydroxide (3 mL) and elemental iodine (0.259 g.). The reaction mixture was allowed to stir at room temperature for 10 minutes. The solvent was removed under reduced pressure. The resulting solid was extracted with methylene chloride (3×) and water. The organic layers were combined and dried over magnesium sulfate. The magnesium sulfate was filtered, and the solvent was removed under reduced pressure to afford a yellow solid. The solid was purified via preparative HPLC (20–50% acetonitrile/water, 20 mL/min.) to afford the title compound (0.290 g., 46% yield). 1H-NMR (CDCl3) δ 7.34 (dd, 3H), 7.20 (d, 2H), 6.92 (d, 2H), 6.84 (d, 1H), 6.75 (d, 2H), 4.13 (t, 2H), 3.97 (s, 2H), 2.84 (t, 2H), 2.61 (bs, 3H), 1.643 (m, 4H), 1.46 (m, 2H), 1.24 (m, 1H). MS (m/z) 616 (M+1)+.

reactant | 3-(4-chlorophenyl)-7-hydroxy-4-{(4-(2-piperidylethoxy)phenyl)methyl}-2H-chromen-2-one | 0.500 g | ClC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCC1NCCCC1)O)=O | C29H28ClNO4
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
reactant | iodine | 0.259 g | II | I2
solvent | methanol | 10 mL | CO | CH4O
product | 3-(4-chlorophenyl)-7-hydroxy-8-iodo-4-{(4-(2-piperidylethoxy)phenyl)methyl}2H-chromen-2-one | 0.290 g, 46% yield | ClC1=CC=C(C=C1)C=1C(OC2=C(C(=CC=C2C1CC1=CC=C(C=C1)OCCC1NCCCC1)O)I)=O | C29H27ClINO4
